US07105682B2
Step A: Preparation of 1-(1-methyl(4-piperidyl))-6-nitroindoline
6-Nitroindoline (5 g) was dissolved in 200 mL of dichloroethane. N-Methyl-4-piperidone (5 g) was added to the mixture, followed by NaHB(OAc)3 (12 g) and 1 mL of glacial AcOH. The mixture was stirred at RT overnight. A saturated NaHCO3 (200 mL) solution was added to the reaction mixture and stirred for 1 h. The resulting mixture was separated by separation funnel. The organic layer was extracted once with saturated NaHCO3 solution and once with brine. The resulting organic layer was dried over MgSO4, filtered and concentrated in vacuo. The crude material was purified by flash chromatography on silica gel with 2:1 EtOAc:MeOH to afford orange oil. MS: 262 (M+1). Calc'd. for C14H19N3O2—261.3.

reactant | 6-Nitroindoline | 5 g | [N+](=O)([O-])C1=CC=C2CCNC2=C1 | C8H8N2O2
reactant | N-Methyl-4-piperidone | 5 g | CN1CCC(CC1)=O | C6H11NO
reactant | AcOH | 1 mL | CC(=O)O | C2H4O2
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 200 mL | ClC(C)Cl | C2H4Cl2
product | 1-(1-methyl(4-piperidyl))-6-nitroindoline | CN1CCC(CC1)N1CCC2=CC=C(C=C12)[N+](=O)[O-] | C14H19N3O2
